US05089495
Using a similar procedure to that described in Example 1, 3-bromomethyl-1,2-dihydroquinolin-2-one was reacted with 2-[1-(4-hydroxy-3-methoxyphenyl)-1-methoxypropyl]thiazole to give 2-[1-methoxy-1-[3-methoxy-4-(1,2 dihydro-2-oxoquinolin-3ylmethoxy)phenyl]propyl]thiazole in 28% yield, m.p. 170°-171° C. (recrystallised from a mixture of hexane and ethyl acetate).

reactant | 3-bromomethyl-1,2-dihydroquinolin-2-one | BrCC=1C(NC2=CC=CC=C2C1)=O | C10H8BrNO
reactant | 2-[1-(4-hydroxy-3-methoxyphenyl)-1-methoxypropyl]thiazole | OC1=C(C=C(C=C1)C(CC)(OC)C=1SC=CN1)OC | C14H17NO3S
product | 2-[1-methoxy-1-[3-methoxy-4-(1,2 dihydro-2-oxoquinolin-3ylmethoxy)phenyl]propyl]thiazole | 28% yield | COC(CC)(C1=CC(=C(C=C1)OCC=1C(NC2=CC=CC=C2C1)=O)OC)C=1SC=CN1 | C24H24N2O4S
